US08648081B2
Stir a mixture of 1-(4-chlorobenzo[b]thiophen-2-yl)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-3-hydroxybutan-1-one (1.1 g, crude, 2.43 mmol), SOCl2 (1.16 g, 0.7 mL, 9.43 mmol) and pyridine (384 mg, 0.4 mL, 4.86 mmol) in anhydrous DCM (10 mL) at ambient temperature for overnight. Dilute the mixture with saturated NH4Cl solution and extract the aqueous mixture with DCM (10 mL×3). The combined organic layers are washed with brine, dried over anhydrous Na2SO4 and concentrated under vacuum to afford crude 1-(4-chlorobenzo[b]thiophen-2-yl)-3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-2-en-1-one as brown solid (1.05 g, 100%). 1H NMR (400 MHz, CDCl3) δ8.12-8.10 (s, 1H), 7.69-7.64 (m, 1H), 7.47-7.44 (m, 2H), 7.38-7.35 (m, 2H), 7.27-7.24 (m, 1H), 6.96-6.92 (s, 1H).

reactant | 1-(4-chlorobenzo[b]thiophen-2-yl)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-3-hydroxybutan-1-one | 2.43 mmol, 1.1 g | ClC1=CC=CC=2SC(=CC21)C(CC(C(F)(F)F)(O)C2=CC(=CC(=C2)Cl)Cl)=O | C18H10Cl3F3O2S
reactant | SOCl2 | 9.43 mmol, 0.7 mL, 1.16 g | O=S(Cl)Cl | Cl2OS
reactant | pyridine | 4.86 mmol, 0.4 mL, 384 mg | N1=CC=CC=C1 | C5H5N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | NH4Cl | [NH4+].[Cl-]
product | 1-(4-chlorobenzo[b]thiophen-2-yl)-3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-2-en-1-one | 1.05 g, 100% | ClC1=CC=CC=2SC(=CC21)C(C=C(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl)=O | C18H8Cl3F3OS
